US06528663B1
An appropriately equipped glass reaction vessel was charged with 186.5 grams (1 mole) of 4-chlorotetrahydrophthalic anhydride and heated to 150° C. under nitrogen. Methylamine gas (32 grams, 1.03 mole) was then introduced to the reaction vessel subsurface over 30 minutes. The reaction mixture was then heated for 3 hours at 180° C. The product was then distilled to give N-methyl-4-chlorophthalimide in approximately 95% yield.

reactant | 4-chlorotetrahydrophthalic anhydride | 1 mole, 186.5 grams | ClC1CC2C(C(=O)OC2=O)C=C1 | C8H7ClO3
reactant | Methylamine | 1.03 mole, 32 grams | CN | CH5N
product | N-methyl-4-chlorophthalimide | approximately 95% yield | CN1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C9H6ClNO2
